### PR TITLE
feat(Topology): Henkel's approximating sequence

### PR DESCRIPTION
**Pull request by CBirkbeck**
**Henkel's approximating sequence** — the recursive core of the last §0.6 step.

AdicSpaces §0.6 wants Wedhorn 6.16 via Henkel's open mapping theorem. Landed so far: #2544 the
zero-sequence hypothesis, #2684 the Baire argument, #2691 that `closure (f '' U)` is a
neighbourhood of zero, #2707 an antitone basis of open subgroups, #2726 one step of the
approximation. This iterates that step.

`exists_seq_mem_and_sub_sum_mem`: if each `closure (f '' V (n + 1))` is a neighbourhood of zero and
`y ∈ closure (f '' V 0)`, there are approximants `x n ∈ V n` whose partial sums drive the residual
down the sequence — `y - f (x 0 + ⋯ + x n) ∈ closure (f '' V (n + 1))` at every stage.

The recursion carries the residual as its state, and the state's *type* varies with `n` — it is
`{z // z ∈ closure (f '' V n)}` — so it goes through `Nat.rec` with an explicit motive rather than
a fold. The partial-sum identity is then a separate induction, because the recursion produces
residuals and the statement is about sums.

**Nothing here converges anything**: no completeness, no first countability, no Baire. The sequence
exists in any topological additive group. Those hypotheses are what let it be *summed*, and the sum
is what finally removes the closure from `f '' U` — that is the next PR, and keeping it separate
leaves this recursion reviewable on its own.

Roadmap: AdicSpaces

🤖 Prepared with Claude Code

### CODE REVIEW

File: TauCeti/Topology/Algebra/OpenMapping/Sequence.lean
Comment (CBirkbeck) [inline TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: ### ✅ generality — now passing on `1c76fa2`.

Comment (CBirkbeck) [inline TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: ### ✅ placement — now passing on `1c76fa2`.

Comment (CBirkbeck) [inline TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: ### ✅ proof-quality — now passing on `1c76fa2`.

**Comment by CBirkbeck** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The dependent recursion correctly iterates the one-step approximation lemma, and the resulting membership and partial-sum residual statements match the intended mathematics. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The approximating-sequence theorem is genuinely new and reuses the existing one-step lemma. No equivalent Mathlib or TauCeti declaration or applicable library replacement for the noncommutative subtraction argument was found. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The new sequence theorem directly advances AdicSpaces §0.6 by iterating the already-merged Henkel approximation step toward the open mapping theorem. The supporting file rename is part of the same coherent topic. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module explicitly credits Henkel’s paper as the central source for the approximating-sequence construction; no additional attribution is required. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical theorem exposes exactly the approximating sequence and its two characteristic properties, while all recursive machinery remains local. The obsolete module path is removed, and no compatibility-only, over-exposed, or incomplete public surface remains. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The theorem now uses the natural assumptions: `AddCommMonoid M` supports finite sums and commuting images, `AddHomClass` supplies exactly additivity, and the codomain assumptions match residual subtraction and the one-step lemma. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The theorem is naturally placed in OpenMapping/Sequence; the shared OpenMapping directory structure, Basic import, and removal of the obsolete flat module path are all appropriate. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The theorem name accurately describes both conjuncts of its existential conclusion, follows established `exists_seq_…` terminology, and introduces no notation. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The new substantive file has an accurate module docstring, and its public theorem is documented with its hypotheses, conclusion, and scope. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proof isolates and documents the dependent recursion’s definitional reduction in `state_succ`, then uses a concise induction with explicit algebraic rewrites. No brittle, obscure, or substantially repeated reasoning warrants changes. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/7faade59fcce263770794c16e8b9bd6008330b41...1c76fa223ffaab5b89b8d582e395dba83509656b) at head `1c76fa2`. rubrics @ [`b8161ef`](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics). Review spend: $6.64.</sub>

File: TauCeti/Topology/Algebra/OpenMapping/Sequence.lean
Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: Taken in `860f8c95`: `[AddCommMonoid M] [AddCommGroup N] [TopologicalSpace N] [ContinuousSub N]`. You are right on both — the construction only ever sums elements of `M`, and the one topological fact used is continuity of subtraction, which is exactly what `exists_mem_and_sub_mem_closure_image` already asks for. `AddCommGroup N` stays because the residual is a difference.

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: Done in `860f8c95`. `TauCeti/Topology/Algebra/OpenMapping.lean` is now `OpenMapping/Basic.lean` via `git mv`, the import here points at it, the module docstring reference is updated, and the old path is gone with no forwarding shim. Nothing else in the repo imported it.

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: Both taken in `860f8c95`.

* `choose!` now packages the approximant with **both** of its properties in a single application:

  ```lean
  choose! x hxV hxres using fun (n : ℕ) (r : {z : N // z ∈ closure (f '' V n)}) ↦
    exists_mem_and_sub_mem_closure_image f r.property (hV n)
  ```

  so the membership conclusion uses `hxV n (state n)` rather than re-invoking the existential and
  depending on two `Exists.choose`s reducing to the same term. You were right that this was the
  fragile part: the second `choose` was only correct because it happened to elaborate identically.
* `state_succ : ∀ m, (state (m + 1)).1 = (state m).1 - f (x m (state m))` is now a stated equation
  used by name in the induction, instead of a `rfl` reducing through `state`, `Nat.rec` and the
  subtype wrapper at the point of use.

Comment (CBirkbeck) [inline TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: ### ✅ documentation — now passing on `1c76fa2`.

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: **Re: your reply on `generality` —** re-reviewed on `860f8c9`; this clears the finding ✅ — approved on `860f8c9`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755228963.</sub>

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: **Re: your reply on `placement` —** re-reviewed on `860f8c9`; this clears the finding ✅ — approved on `860f8c9`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755229033.</sub>

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `860f8c9`; this clears the finding ✅ — approved on `860f8c9`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755229120.</sub>

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: Taken in `e21c39e9`. "The one-step lemma iterated, carrying the residual as the state" is how the proof works, not what the theorem says; the module docstring already explains the iteration once, which is the right place for it. The declaration docstring keeps the hypotheses, the approximants, what the residuals do, and the absence of completeness and first countability — that last being the load-bearing fact for a reader deciding whether this lemma applies to them.

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `e21c39e`; this clears the finding ✅ — approved on `e21c39e`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755250379.</sub>

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: Taken in `ab3562ff` — `[AddGroup N]`. Worth recording *why* it works, since the step is not the
general group identity it looks like.

The induction needs `a - b - c = a - (b + c)`, which is **false** in a general additive group:
`a - b - c = a + (-b) + (-c)` while `a - (b + c) = a + (-c + -b)`. Mathlib's `sub_sub` is stated
for a commutative structure for exactly that reason, and `rw [sub_sub]` does not apply here.

It holds in this proof because `b` and `c` are `f (∑ …)` and `f (x …)` — images under an additive
map of elements of `M`, where addition *is* commutative. So they commute, hence so do their
negatives, and the reassociation goes through:

```lean
have hsub : ∀ a b c : N, b + c = c + b → a - b - c = a - (b + c) := by
  intro a b c hbc
  have hneg : -b + -c = -(b + c) := by rw [← neg_add_rev, hbc]
  rw [sub_eq_add_neg, sub_eq_add_neg, sub_eq_add_neg, add_assoc, hneg]
…
rw [map_add, hsub _ _ _ (by rw [← map_add, ← map_add, add_comm])]
```

`abel` is gone, which is the right outcome: it was silently using commutativity of all of `N` when
only two specific elements needed to commute.

Comment (CBirkbeck) [inline TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: ### ✅ reuse — now passing on `1c76fa2`.

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: **Re: your reply on `generality` —** re-reviewed on `ab3562f`; this clears the finding ✅ — approved on `ab3562f`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755287164.</sub>

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: Contesting: `sub_sub` does not apply at the binders this PR now has, and it has them because of the
`generality` finding on the previous round of this same PR.

**`sub_sub` is not an additive-group lemma.**

```
#check @sub_sub
-- @sub_sub : ∀ {α} [inst : SubtractionCommMonoid α] (a b c : α), a - b - c = a - (b + c)
```

It requires `SubtractionCommMonoid`, and the statement is *false* in a general additive group:
`a - b - c = a + (-b) + (-c)` while `a - (b + c) = a + -(b + c) = a + (-c + -b)`. Confirming that
nothing else covers it:

```lean
example {N : Type*} [AddGroup N] (a b c : N) : a - b - c = a - (b + c) := by exact?
-- `exact?` could not close the goal.
```

So the suggested `rw [map_add, sub_sub, hbc]` cannot elaborate under `[AddGroup N]`. (It is also
what I tried first, at `ab3562ff`'s predecessor: `rw [sub_sub]` failed there.)

**The conflict.** `generality`, round 2 on head `e21c39e9`:

> `[AddCommGroup N]` is stronger than needed: subtraction only requires `AddGroup N` … _Fix:_
> Replace it with `[AddGroup N]` and prove the induction identity using general group algebra, e.g.
> unfold subtraction and reassociate after `map_add`, **instead of `abel`**.

That is exactly what `hsub` is — the reassociation done by hand, valid because the two elements are
images of commuting elements of `M`. Deleting it in favour of `sub_sub` requires putting
`[AddCommGroup N]` back, which re-fires `generality`.

I have kept `[AddGroup N]` and `hsub`, since that is the more general statement and the later of the
two requests. If the project would rather have `sub_sub`, then `AddCommGroup N` has to return —
that is a call between the two rubrics, not one I should make by satisfying this thread and letting
the other re-open.

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `ab3562f`; this clears the finding ✅ — approved on `ab3562f`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755307523.</sub>

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: Taken in the head above: `[AddHomClass F M N]`. You are right that `map_zero` never appears — the construction uses `map_add` once, in the induction identity, and nothing else about `f` beyond its being a function into a group where subtraction is continuous. The one-step lemma it iterates asks even less: it needs no algebraic structure on `f` at all.

Comment (CBirkbeck) [reply TauCeti/Topology/Algebra/OpenMapping/Sequence.lean:1]: **Re: your reply on `generality` —** re-reviewed on `1c76fa2`; this clears the finding ✅ — approved on `1c76fa2`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3755352580.</sub>
